US07053107B2
1-Methyl-1H-benzoimidazole-2-carbaldehyde oxime
To a stirred suspension of 1-Methyl-1H-benzoimidazole-2-carbaldehyde (980 mg, 6.61 mmol) in H2O (10 ml) was added a solution of Sodium Acetate (3.25 g, 39.68 mmol) and Hydroxylamine hydrochloride (1.38 g, 19.84 mmol) in 10 ml of H2O. The reaction was stirred at rt for 2 hr and the thick precipitate was collected by filtration, washed with water and dried under vacuum to give 1.02 g (94%) of a white solid. 1H NMR (DMSO-d6) δ 12.06 (1H, s), 8.28 (1H, s), 7.65 (1H, d, J=7.5 Hz), 7.60 (1H, d, J=6.8 Hz), 7.32 (1H, t, J=7.2 Hz), 7.23 (1H, t, J=6.8 Hz), 4.00 (3H, s).

reactant | 1-Methyl-1H-benzoimidazole-2-carbaldehyde | 6.61 mmol, 980 mg | CN1C(=NC2=C1C=CC=C2)C=O | C9H8N2O
reactant | Sodium Acetate | 39.68 mmol, 3.25 g | C(C)(=O)[O-].[Na+]
reactant | Hydroxylamine hydrochloride | 19.84 mmol, 1.38 g | Cl.NO
solvent | H2O | 10 ml | O | H2O
solvent | H2O | 10 ml | O | H2O
product | 1-Methyl-1H-benzoimidazole-2-carbaldehyde oxime | 1.02 g, 94% | CN1C(=NC2=C1C=CC=C2)C=NO | C9H9N3O
